US07482484B2
Step a: 5-hexyl-6-methoxy-2,2-dimethylindan-1-one
5 g (0.02 mol) of 5-hexyl-6-methoxyindan-1-one dissolved in 20 ml of dimethylformamide are added dropwise to a suspension of 1.8 g (0.04 mol) of sodium hydride in 20 ml of dimethylformamide at 25° C. The mixture is stirred for 15 minutes at this temperature, and 11.4 g (0.1 mol) of methyl iodide are then added, while maintaining the temperature below 30° C. The reaction medium is stirred for 16 hours at 25° C. A further 0.9 g (0.0375 mol) of sodium hydride is added, and 15 minutes later 11.4 g (0.1 mol) of methyl iodide are added and the mixture is stirred for 2 hours at 25° C. The mixture is then heated for 1 hour at 50° C. It is poured into water and extracted with ether. The organic phase is dried (Na2SO4) and then evaporated under reduced pressure. The orange oil obtained is purified by flash chromatography (dichloromethane, 3.54 g; 65%).

reactant | 5-hexyl-6-methoxyindan-1-one | 0.02 mol, 5 g | C(CCCCC)C=1C=C2CCC(C2=CC1OC)=O | C16H22O2
reactant | sodium hydride | 0.04 mol, 1.8 g | [H-].[Na+]
reactant | methyl iodide | 0.1 mol, 11.4 g | CI | CH3I
reactant | sodium hydride | 0.0375 mol, 0.9 g | [H-].[Na+]
reactant | methyl iodide | 0.1 mol, 11.4 g | CI | CH3I
reactant | water | O | H2O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-hexyl-6-methoxy-2,2-dimethylindan-1-one | C(CCCCC)C=1C=C2CC(C(C2=CC1OC)=O)(C)C | C18H26O2
